US09034866B2
Synthesis of 3-((4-acetylpiperazin-1-yl)methyl)-10-(3-hydroxy-3-methylbut-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
Similar to as described in General Procedure G, 3-((4-acetylpiperazin-1-yl)methyl)-10-bromo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide (prepared similarly as described in the synthesis of 10-bromo-3-(pyrrolidin-1-ylmethyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide replacing pyrrolidine with 1-(piperazin-1-yl)ethanone) was reacted with 2-methylbut-3-yn-2-ol to give the titled compound as a colorless solid (34 mg, 42%).

reactant | 3-((4-acetylpiperazin-1-yl)methyl)-10-bromo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | C(C)(=O)N1CCN(CC1)CC1=C(N=C2N1CCOC1=C2C=C(C=C1)Br)C(=O)N | C19H22BrN5O3
reactant | 10-bromo-3-(pyrrolidin-1-ylmethyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)CN3CCCC3)C1 | C17H19BrN4O2
reactant | 1-(piperazin-1-yl)ethanone | N1(CCNCC1)C(C)=O | C6H12N2O
reactant | 2-methylbut-3-yn-2-ol | CC(C)(C#C)O | C5H8O
product | 3-((4-acetylpiperazin-1-yl)methyl)-10-(3-hydroxy-3-methylbut-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 34 mg, 42% | C(C)(=O)N1CCN(CC1)CC1=C(N=C2N1CCOC1=C2C=C(C=C1)C#CC(C)(C)O)C(=O)N | C24H29N5O4
